US08455665B2
(S)-3-[(R)-2-Benzyloxy-1-(4-chloro-2-methylphenoxy)ethyl]pyrrolidine
4-Chloro-2-methylphenol (14.1 mg, 98.9 μmol) was combined with PPh3 (26.0 mg, 98.9 μmol) dissolved in toluene (87.8 μL), and the mixture heated at 100° C. DIAD (19.5 μL, 98.9 μmol) was combined with (S)-3-((S)-2-benzyloxy-1-hydroxyethyl)pyrrolidine-1-carboxylic acid t-butyl ester (19.1 mg, 59.3 mmol) dissolved in toluene (58.0 μL), and slowly added to the heated mixture and stirred for two hours. The mixture was cooled to room temperature and concentrated. The residue was treated with 1.25M HCl in EtOH (474.6 μL) overnight at room temperature. The mixture was concentrated, the residue was redissolved in a mixture of MeCN (0.4 mL), AcOH (0.6 mL) and water (0.6 mL), filtered and purified by reverse phase preparative HPLC to yield the title compound as a mono-TFA salt (7.8 mg, 99% purity). MS m/z: [M+H]+ calcd for C20H24ClNO2, 346.15. found 346.2.

reactant | 4-Chloro-2-methylphenol | 98.9 μmol, 14.1 mg | ClC1=CC(=C(C=C1)O)C | C7H7ClO
reactant | PPh3 | 98.9 μmol, 26.0 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 98.9 μmol, 19.5 μL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | (S)-3-((S)-2-benzyloxy-1-hydroxyethyl)pyrrolidine-1-carboxylic acid t-butyl ester | 59.3 mmol, 19.1 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@@H](COCC1=CC=CC=C1)O | C18H27NO4
solvent | toluene | 87.8 μL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 58.0 μL | C1(=CC=CC=C1)C | C7H8
product | (S)-3-[(R)-2-Benzyloxy-1-(4-chloro-2-methylphenoxy)ethyl]pyrrolidine | C(C1=CC=CC=C1)OC[C@H](OC1=C(C=C(C=C1)Cl)C)[C@@H]1CNCC1 | C20H24ClNO2
